US08440711B2
A solution of 4-(2,2,4-trimethyl-5-oxo-1,3-dioxolan-4-yl)phenyl trifluoromethanesulfonate (15.5 g, 0.044 mol) in ammonia solution (30 mL, 7N in methanol) was left under stirring overnight at room temperature. After solvent evaporation under vacuum a crude was obtained that, after purification by flash chromatography (CH2Cl2/MeOH 98:2) afforded pure 2-[4-(trifluoromethanesulfonyloxy)phenyl]-2-hydroxy propanamide (9.7 g, 0.031 mol) as a white solid. Yield 70%. mp 105-107° C. 1H-NMR (CDCl3) δ 7.80 (d, 2H, J=7 Hz), 7.35 (d, 2H, J=7 Hz), 6.50 (bs, 1H, CONH), 5.42 (bs, 1H, CONH), 3.05 (bs, 1H, OH), 1.94 (s, 3H).

reactant | 4-(2,2,4-trimethyl-5-oxo-1,3-dioxolan-4-yl)phenyl trifluoromethanesulfonate | 0.044 mol, 15.5 g | FC(S(=O)(=O)OC1=CC=C(C=C1)C1(OC(OC1=O)(C)C)C)(F)F | C13H13F3O6S
reactant | ammonia | 7N, 30 mL | N | H3N
product | 2-[4-(trifluoromethanesulfonyloxy)phenyl]-2-hydroxy propanamide | 0.031 mol, 9.7 g, Yield 70% | FC(S(=O)(=O)OC1=CC=C(C=C1)C(C(=O)N)(C)O)(F)F | C10H10F3NO5S
